US07754737B2
A 100-mL round bottom flask was charged with of 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropyl-methylcarbamate (0.9806 g, 1.59 mol, 1.0 equiv), absolute ethanol (6 mL), and Raney nickel (2.15 g, ca. 20 equiv) (Aldrich Raney® 2800 nickel, slurry in water, washed with distilled water prior to use until the washings were neutral, then washed three times with absolute ethanol and stored under ethanol until needed.) The reaction mixture was heated to 100° C. for 3 h and then stirred at rt overnight. LC-MS showed about 60% conversion. The ethanolic solution was decanted from the catalyst. The catalyst was washed with absolute ethanol three times, the solvent being removed by decanting in each case. The organic solutions were combined and concentrated in vacuo. The residue was purified by reversed-phase HPLC (Phenomenex® Luna 5μ C18(2) 100 A, 250×21.20 mm, 5 micron, 70%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min and then 90% CH3CN/H2O, 0.1% CF3COOH over 16 min, flow rate 25 mL/min) to give of 2-(trimethylsilyl)ethyl (S)-2-((S)-3-((R)-5-methoxy-1-phenylpentyl)-piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate (0.5422 g, 57%). LC-MS (3 min) tR=2.61 min, m/z 624 (M+Na+), 602 (M+H+). 1H NMR (400 MHz, CDCl3) δ 8.28 (br s, 2H), 7.29-7.25 (m, 2H), 7.21-7.17 (m, 1H), 7.09-7.06 (m, 2H), 5.46 (m, 1H), 4.21-4.06 (m, 4H), 3.68-3.59 (m, 2H), 3.33-3.27 (m, 2H), 3.28 (s, 3H), 2.92 (s, 3H), 2.68-2.63 (m, 1H), 2.43-2.29 (m, 2H), 1.80-0.83 (m, 25H), 0.02 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 158.5, 158.0, 142.8, 128.4, 128.2, 126.2, 72.7, 64.3, 58.3, 52.8, 49.4, 49.1, 47.9, 45.1, 41.2, 41.1, 34.7, 34.3, 33.4, 33.3, 32.4, 29.2, 28.7, 26.4, 26.2, 26.1, 25.1, 24.1, 17.7, −1.5.

reactant | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamido)-3-cyclohexylpropyl-methylcarbamate | 1.59 mol, 0.9806 g, 1.0 equiv | O[C@](CCCCOC)(C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C34H59N3O5Si
reactant | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Raney nickel | 2.15 g, ca. 20 equiv | [Ni] | Ni
solvent | water | O | H2O
product | 2-(trimethylsilyl)ethyl (S)-2-((S)-3-((R)-5-methoxy-1-phenylpentyl)-piperidine-1-carboxamido)-3-cyclohexylpropylmethylcarbamate | 0.5422 g, 57% | COCCCC[C@@H](C1=CC=CC=C1)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C34H59N3O4Si
